US07863300B2
5-{4-[2-(5-Ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzylidene}-2,4-thiazolidine dione (13, X═OMs)
To a stirred solution of 0.65 g (0.0018 mol) 4-[2-(5-ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzaldehyde dissolved in 10 mL toluene was added 0.211 g (0.0018 mol) thiazolidin-2,4-dione followed by addition of 0.161 g (0.03 mol) acetic acid and 0.228 g (0.03 mol) piperidine. Reaction mixture was refluxed at 120-130° C. for 4 hr. After completion of reaction on TLC, subsequent work-up gave the titled product. Yield of the product was 0.24 g (29%). The product obtained was identical to the product obtained in example 69.

reactant | 4-[2-(5-ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzaldehyde | 0.0018 mol, 0.65 g | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)S(=O)(=O)C | C17H19NO4S
reactant | thiazolidin-2,4-dione | 0.0018 mol, 0.211 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | acetic acid | 0.03 mol, 0.161 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.03 mol, 0.228 g | N1CCCCC1 | C5H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[2-(5-Ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzylidene}-2,4-thiazolidine dione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)S(=O)(=O)C | C20H20N2O5S2
